US09107916B2
A. [4-chloro-2-[(4-fluorophenyl)methoxy]phenyl]methanol
To a solution of 5-chloro-2-(hydroxymethyl)phenol (943 mg, 5.95 mmol) and NaOH (3.5 mL, 6.54 mmol, 2M in water) in ethanol (10 mL) was added 4-(bromomethyl)-1-fluorobenzene (1.13 g, 5.95 mmol) slowly, the mixture was then stirred at room temperature overnight. Water was added to the reaction mixture, and extracted with ethyl acetate. The organic phase was collected and washed with water, brine, and dried with anhydrous Na2SO4. The solvent was removed to give 900 mg of the title compound (57%). 1H NMR (400 MHz, CDCl3): δ 2.08 (1H, t, J=6.4 Hz), 4.67 (2H, d, J=6.4 Hz), 5.05 (2H, s), 6.93 (1H, d, J=1.2 Hz), 6.96 (1H, dd, J=1.6 Hz, 8.0 Hz), 7.07-7.11 (2H, m), 7.25 (1H, d, J=6.0 Hz), 7.37-7.40 (2H, m).

reactant | 5-chloro-2-(hydroxymethyl)phenol | 5.95 mmol, 943 mg | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | NaOH | 6.54 mmol, 2M, 3.5 mL | [OH-].[Na+]
reactant | 4-(bromomethyl)-1-fluorobenzene | 5.95 mmol, 1.13 g | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | Water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [4-chloro-2-[(4-fluorophenyl)methoxy]phenyl]methanol | 900 mg, 57% | ClC1=CC(=C(C=C1)CO)OCC1=CC=C(C=C1)F | C14H12ClFO2
